US05066680
To a solution of N-(4-dimethylamino-2-butynyl)-2-allyl-2,2-diphenylacetamide (0.70 g) in chloroform (5ml) was added methanolic hydrogen chloride (0.15 g/ml, 0.4 ml) and the solution was evaporated in vacuo. The residue was crystallized from a mixture of diethyl ether and ethyl acetate and recrystallized from ethanol to give N-(4-dimethylamino-2-butynyl)-2-allyl-2,2-diphenylacetamide hydrochloride (0.65 g).

reactant | N-(4-dimethylamino-2-butynyl)-2-allyl-2,2-diphenylacetamide | 0.70 g | CN(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)CC=C)=O)C | C23H26N2O
reactant | hydrogen chloride | 0.4 ml | Cl | ClH
solvent | chloroform | 5ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-dimethylamino-2-butynyl)-2-allyl-2,2-diphenylacetamide hydrochloride | 0.65 g | Cl.CN(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)CC=C)=O)C | InChI=1S/C23H26N2O.ClH/c1-4-17-23(20-13-7-5-8-14-20,21-15-9-6-10-16-21)22(26)24-18-11-12-19-25(2)3;/h4-10,13-16H,1,17-19H2,2-3H3,(H,24,26);1H
